US06599902B2
To a solution of {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid (519 mg, 1 mmol) in DMF (5 mL) was added HOBt (202 mg, 1.3 eq.), EDAC.HCl (288 mg, 1.5 eq.) and TEA (302 mg, 3 eq.). After stirring at rt for 30 mins, to the mixture was added 4-(2-amino-ethyl)-piperazine-1-carboxylic acid tert-butyl ester (298 mg, 1.3 eq.). After stirring at 40° C. for 24 hours, the reaction was concentrated and the residue was purified on a silica gel column to give 4-[2-(2-{5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetylamino)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester as a yellow solid.

reactant | {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid | 1 mmol, 519 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)O)C | C24H20Cl2N2O5S
reactant | HOBt | 202 mg, 1.3 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 288 mg, 1.5 eq. | CCN=C=NCCCN(C)C.Cl
reactant | 4-(2-amino-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | 298 mg, 1.3 eq. | C(C)(C)(C)OC(=O)N1CCN(CC1)CCN | C11H23N3O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-[2-(2-{5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetylamino)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCNC(CC1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C)=O | C35H41Cl2N5O6S
